2105-12-02 10:38:00 Physician Attending Progress Note
Chief Complaint: Anemia, bladder mass, hypotension, chronic renal
   failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   Hemodynamically stable with volume resuscitation.
   Transfused 1 unit PRBCs - hct rose from 24 to 25.
   24 Hour Events:
 PICC LINE - START [**2105-12-1**] 05:14 PM
   History obtained from Patient
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Other medications:
   vitamin B, insulin, lipitor, heparin sc
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2105-12-2**] 10:37 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.9
C (98.5
   Tcurrent: 36.7
C (98
   HR: 87 (70 - 100) bpm
   BP: 132/53(74) {81/26(42) - 132/63(74)} mmHg
   RR: 25 (18 - 29) insp/min
   SpO2: 99%
   Heart rhythm: AF (Atrial Fibrillation)
   Height: 60 Inch
                  Total In:
                                                                  2,304 mL
                                                                     85 mL
   PO:
                  TF:
   IVF:
                                                                  1,689 mL
   Blood products:
                                                                    615 mL
                                                                     85 mL
   Total out:
                                                                      0 mL
                                                                      0 mL
   Urine:
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,304 mL
                                                                     85 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 99%
   ABG: ///25/
   Physical Examination
   General Appearance: Well nourished, No acute distress, Overweight /
   Obese, No(t) Thin, No(t) Anxious, No(t) Diaphoretic
   Eyes / Conjunctiva: PERRL, No(t) Pupils dilated, No(t) Conjunctiva
   pale, No(t) Sclera edema
   Head, Ears, Nose, Throat: Normocephalic, No(t) Endotracheal tube, No(t)
   NG tube, No(t) OG tube
   Cardiovascular: (PMI Normal, No(t) Hyperdynamic), (S1: Normal, No(t)
   Absent), (S2: Normal, No(t) Distant, No(t) Loud, No(t) Widely split ,
   No(t) Fixed), No(t) S3, No(t) S4, No(t) Rub, (Murmur: No(t) Systolic,
   No(t) Diastolic)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric, No(t) Paradoxical), (Breath
   Sounds: Clear : Anterior and lateral, No(t) Crackles : , No(t)
   Bronchial: , No(t) Wheezes : , No(t) Diminished: , No(t) Absent : ,
   No(t) Rhonchorous: ), Good air movement
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended,
   No(t) Tender: , Obese
   Extremities: Right: Trace edema, Left: Trace, No(t) Cyanosis, No(t)
   Clubbing
   Musculoskeletal: No(t) Muscle wasting, No(t) Unable to stand
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Oriented (to): person, place, and time, Movement: Purposeful,
   No(t) Sedated, No(t) Paralyzed, Tone: Not assessed
   Labs / Radiology
   8.4 g/dL
   248 K/uL
   86 mg/dL
   4.3 mg/dL
   25 mEq/L
   4.5 mEq/L
   28 mg/dL
   101 mEq/L
   134 mEq/L
   25.1 %
   6.7 K/uL
        [image002.jpg]
                            [**2105-12-1**]  12:24 AM
                            [**2105-12-1**]  05:04 AM
                            [**2105-12-1**]  01:06 PM
                            [**2105-12-1**]  05:26 PM
                            [**2105-12-2**]  04:07 AM
   WBC
   11.3
   6.9
   6.7
   Hct
   29.0
   30.0
   24.1
   23.8
   25.1
   Plt
   [**Telephone/Fax (3) 7059**]
   Cr
   3.6
   4.3
   Glucose
   94
   86
   Other labs: PT / PTT / INR:13.2/29.6/1.1, Differential-Neuts:85.8 %,
   Lymph:7.3 %, Mono:5.8 %, Eos:0.6 %, Ca++:8.1 mg/dL, Mg++:1.9 mg/dL,
   PO4:5.6 mg/dL
   Assessment and Plan
 RENAL FAILURE, CHRONIC (CHRONIC RENAL FAILURE, CRF, CHRONIC KIDNEY
   DISEASE)
 HYPOTENSION (NOT SHOCK)
 IMPAIRED SKIN INTEGRITY
 [**Last Name 121**] PROBLEM - ENTER DESCRIPTION IN COMMENTS
   ANEMIA
   Blood pressue improved with fluids. Hct stable although not rising as
   much as one would expect with transfusion. Due for surgery today.
   On dialysis now. Electrolytes and acid-base status stable.
   ICU Care
   Nutrition:
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   20 Gauge - [**2105-11-30**] 11:04 PM
   PICC Line - [**2105-12-1**] 05:14 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments: Not applicable.
   Communication: Patient discussed on interdisciplinary rounds , ICU
   Code status: Full code
   Disposition :ICU
   Total time spent: 25 minutes

2105-12-03 07:34:00 Physician Resident Progress Note
Chief Complaint: Hypotension, bleeding
   24 Hour Events:
   Pt underwent cystoscopy with partial removal of tumor, which was said
   to invade bladder wall.  Pathology report pending
   -Gave oxycodone 5 q 4 PRN for pain
   Vascular surgery contact[**Name (NI) **] regarding LE wounds; plan for VAC dressing
   today
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Other medications:
   Review of systems is unchanged from admission except as noted below
   Review of systems:  Denies chest pain, abdominal pain, SOB.
   Thirsty/Hungry, no other complaints
   Flowsheet Data as of  [**2105-12-3**] 07:30 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.3
C (99.1
   Tcurrent: 37.3
C (99.1
   HR: 91 (67 - 98) bpm
   BP: 107/60(73) {107/34(56) - 157/77(90)} mmHg
   RR: 21 (15 - 25) insp/min
   SpO2: 100%
   Heart rhythm: AF (Atrial Fibrillation)
   Height: 60 Inch
             Total In:
                                                                    175 mL
                                                                    375 mL
   PO:
                                                                     50 mL
                                                                    300 mL
   TF:
   IVF:
                                                                     40 mL
                                                                     75 mL
   Blood products:
                                                                     85 mL
   Total out:
                                                                    360 mL
                                                                      0 mL
   Urine:
                                                                     60 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -185 mL
                                                                    375 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 100%
   ABG: ///25/
   Physical Examination
   GEN: pleasant, NAD
   HEENT: PERRL, MMM, OP with petecia on small palette and apparent
   denture irritation, otherwise clear.
   CV: rrr, no murmurs appreciated
   PULM: CTAB
   ABD: +BS, soft, nt, nd.
   EXT:  bilateral le dressed with gauze, diminished pedal pulses
   bilaterally, no C/C/E
   NEURO: A+O x3, moves all extremities.
   Labs / Radiology
   269 K/uL
   10.2 g/dL
   92 mg/dL
   2.8 mg/dL
   25 mEq/L
   4.6 mEq/L
   15 mg/dL
   108 mEq/L
   143 mEq/L
   30.1 %
   9.4 K/uL
        [image002.jpg]
                            [**2105-12-1**]  12:24 AM
                            [**2105-12-1**]  05:04 AM
                            [**2105-12-1**]  01:06 PM
                            [**2105-12-1**]  05:26 PM
                            [**2105-12-2**]  04:07 AM
                            [**2105-12-3**]  12:46 AM
                            [**2105-12-3**]  04:09 AM
   WBC
   11.3
   6.9
   6.7
   10.1
   9.4
   Hct
   29.0
   30.0
   24.1
   23.8
   25.1
   30.8
   30.1
   Plt
   [**Telephone/Fax (3) 7078**]73
   269
   Cr
   3.6
   4.3
   2.8
   Glucose
   94
   86
   105
   92
   Other labs: PT / PTT / INR:13.4/27.6/1.1, Differential-Neuts:85.8 %,
   Lymph:7.3 %, Mono:5.8 %, Eos:0.6 %,
    Ca++:7.8 mg/dL, Mg++:1.9 mg/dL, PO4:4.4 mg/dL
   Assessment and Plan
 RENAL FAILURE, CHRONIC (CHRONIC RENAL FAILURE, CRF, CHRONIC KIDNEY
   DISEASE)
 HYPOTENSION (NOT SHOCK)
 IMPAIRED SKIN INTEGRITY
 [**Last Name 121**] PROBLEM - ENTER DESCRIPTION IN COMMENTS
   Assesment: This is a 79 year-old female with a history of PVD, bladder
   cancer, a fib, ESRD who presents with persistent vaginal bleeding.
   .
   # Bleeding/Bladder mass: S/p cystoscopy yesterday.  No evidence of
   bleeding since procedure.  HCT stable; biopsy now pending.
   -          f/u with urology
   -          await path findings
   # Tachycardia/hypotension:  Resolved.  Felt to secondary to blood loss
   which is now stable.
   - IVF bolus prn (though would prefer not to give boluses unless needed
   given that the patient is dialysis dependent).
   # PVD/LE Ulcers:   Followed by vascular surgery.  Will come by today to
   place VAC dressing to the wound.
   -          follow-up vascular recs
   # Atrial fibrillation: patient is rate controlled without meds
   currently.  Betablockers and diuretics initially held on arrival.
   - consider adding Carvediolol 12.5 [**Hospital1 **] and Furosemide 60 mg [**Doctor First Name **],tu,th,sa
   per home regimen.
   .
   # Diabetes: patient reports having diet controlled diabetes.  Will give
   patient insulin sliding scale at this point.
   # FEN: Lyte repletion PRN (Mg low this AM), Dialysis per renal
   schedule.
   -          follow-up renal recs.
   ICU Care
   Nutrition:  Renal diet
   Glycemic Control:  ISS
   Lines:
   20 Gauge - [**2105-11-30**] 11:04 PM
   PICC Line - [**2105-12-1**] 05:14 PM
   Prophylaxis:
   DVT:  SQ heparin, penumoboots
   Stress ulcer:  none
   Code status: Full code
   Disposition: transfer to surgery

2105-12-03 11:08:00 Physician Attending Progress Note
Chief Complaint: Anemia, hypotension, vaginal bleeding, chronic renal
   failure.
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   Patient had cystoscopy with bx of bladder mass. Tumor felt to be
   eroding into wall of bladder.
   Afebrile.
   24 Hour Events:
 OR SENT - At [**2105-12-2**] 05:30 PM
 OR RECEIVED - At [**2105-12-2**] 07:30 PM
   History obtained from Patient
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2105-12-3**] 08:26 AM
   Other medications:
   Vit B, renagel, lipitor, insulin
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2105-12-3**] 11:06 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.3
C (99.1
   Tcurrent: 37.2
C (98.9
   HR: 81 (67 - 98) bpm
   BP: 116/29(49) {107/29(49) - 157/77(90)} mmHg
   RR: 22 (15 - 25) insp/min
   SpO2: 99%
   Heart rhythm: AF (Atrial Fibrillation)
   Height: 60 Inch
             Total In:
                                                                    175 mL
                                                                    889 mL
   PO:
                                                                     50 mL
                                                                    780 mL
   TF:
   IVF:
                                                                     40 mL
                                                                    109 mL
   Blood products:
                                                                     85 mL
   Total out:
                                                                    360 mL
                                                                      0 mL
   Urine:
                                                                     60 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -185 mL
                                                                    889 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 99%
   ABG: ///25/
   Physical Examination
   General Appearance: Well nourished, No acute distress, Overweight /
   Obese, No(t) Thin, No(t) Anxious, No(t) Diaphoretic
   Eyes / Conjunctiva: PERRL, No(t) Pupils dilated, No(t) Conjunctiva
   pale, No(t) Sclera edema
   Head, Ears, Nose, Throat: Normocephalic, No(t) Poor dentition, No(t)
   Endotracheal tube, No(t) NG tube, No(t) OG tube
   Cardiovascular: (PMI Normal, No(t) Hyperdynamic), (S1: Normal, No(t)
   Absent), (S2: Normal, No(t) Distant, No(t) Loud, No(t) Widely split ,
   No(t) Fixed), No(t) S3, No(t) S4, No(t) Rub, (Murmur: No(t) Systolic,
   No(t) Diastolic)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric, No(t) Paradoxical), (Breath
   Sounds: Clear : Anterior and lateral)
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended,
   No(t) Tender: , Obese
   Extremities: Right: Trace edema, Left: Trace, No(t) Cyanosis, No(t)
   Clubbing
   Musculoskeletal: No(t) Muscle wasting, No(t) Unable to stand
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Oriented (to): person, place, time, Movement: Purposeful,
   No(t) Sedated, No(t) Paralyzed, Tone: Not assessed
   Labs / Radiology
   10.2 g/dL
   269 K/uL
   92 mg/dL
   2.8 mg/dL
   25 mEq/L
   4.6 mEq/L
   15 mg/dL
   108 mEq/L
   143 mEq/L
   30.1 %
   9.4 K/uL
        [image002.jpg]
                            [**2105-12-1**]  12:24 AM
                            [**2105-12-1**]  05:04 AM
                            [**2105-12-1**]  01:06 PM
                            [**2105-12-1**]  05:26 PM
                            [**2105-12-2**]  04:07 AM
                            [**2105-12-3**]  12:46 AM
                            [**2105-12-3**]  04:09 AM
   WBC
   11.3
   6.9
   6.7
   10.1
   9.4
   Hct
   29.0
   30.0
   24.1
   23.8
   25.1
   30.8
   30.1
   Plt
   [**Telephone/Fax (3) 7078**]73
   269
   Cr
   3.6
   4.3
   2.8
   Glucose
   94
   86
   105
   92
   Other labs: PT / PTT / INR:13.4/27.6/1.1, Differential-Neuts:85.8 %,
   Lymph:7.3 %, Mono:5.8 %, Eos:0.6 %, Ca++:7.8 mg/dL, Mg++:1.9 mg/dL,
   PO4:4.4 mg/dL
   Assessment and Plan
 RENAL FAILURE, CHRONIC (CHRONIC RENAL FAILURE, CRF, CHRONIC KIDNEY
   DISEASE)
 HYPOTENSION (NOT SHOCK)
 IMPAIRED SKIN INTEGRITY
 [**Last Name 121**] PROBLEM - ENTER DESCRIPTION IN COMMENTS
   ANEMIA
   BLADDER MASS
   Awaiting path on bladder biopsies. Hct stable. Not at transfusion
   threshold. Small amount of blood in Foley catheter.
   Hemodynamically stable. No recurrent hypotension.
   Electrolytes and acid-base status acceptable. Dialysis due tomorrow.
   ICU Care
   Nutrition: oral
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   20 Gauge - [**2105-11-30**] 11:04 PM
   PICC Line - [**2105-12-1**] 05:14 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: Not applicable.
   VAP:
   Comments: Not applicable.
   Communication: Patient discussed on interdisciplinary rounds , ICU
   Code status: Full code
   Disposition :Transfer to floor
   Total time spent: 25